US07214824B2
10(a): N-(2-chloro-4-cyanophenyl)methanesulfonamide
A mixture of N-(2-chloro-4-iodophenyl)methanesulfonamide (4.4 g, 13.3 mmol, Industrie Chimique Belge 1974, 39, 490–500), zinc(II)cyanide (1.95 g, 16.6 mmol) and palladium(0) tetrakis(triphenyl phosphine) (1.53 g, 1.33 mmol) in N,N-dimethyl formamide (DMF) (30 ml) was heated at 90° C. for 1.5 hours. Then, the mixture was diluted with ethyl acetate and toluene (8:1) solution (250 ml) and washed with water, brine, dried over sodium sulfate. Then, filtration, evaporation to remove solvent gave the crude residue, which was applied to a silica gel chromatography column and eluted with a volume mixture of methylene dichloride/hexane(2/1 to 4/2) to furnish 2.69 g (88% yield) of title compound as a white solid.

reactant | N-(2-chloro-4-iodophenyl)methanesulfonamide | 13.3 mmol, 4.4 g | ClC1=C(C=CC(=C1)I)NS(=O)(=O)C | C7H7ClINO2S
reactant | N,N-dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc(II)cyanide | 16.6 mmol, 1.95 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium(0) tetrakis(triphenyl phosphine) | 1.33 mmol, 1.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | N-(2-chloro-4-cyanophenyl)methanesulfonamide | 2.69 g, 88% yield | ClC1=C(C=CC(=C1)C#N)NS(=O)(=O)C | C8H7ClN2O2S
